US08293744B2
Step 3: Preparation of ethyl 2-diazo-3-(2-fluoropyridin-3-yl)-3-oxopropanoate:
Ethyl 3-(2-fluoropyridine-3-yl)-3-oxopropanoate (1.42 g, 6.71 mmol) was dissolved in anhydrous acetonitrile (20 mL), treated with triethylamine (0.781 mL, 1.15 equiv) and cooled to 0° C. To the mixture was added the 4-acetamidobenzenesulfonyl azide (1.77 g, 1.1 equiv) and after stirring 0° C. for 1 hour, the mixture was treated with sodium hydroxide (10 mL, 1 N aqueous). The mixture was poured into sodium carbonate (50 mL, aqueous saturated) and water (200 mL) and extracted with ethyl acetate (2×250 mL). The combined organic extracts were washed once with brine (50 mL), dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 70:30; hexanes:ethyl acetate), providing the titled compound as a light yellow oil.

reactant | Ethyl 3-(2-fluoropyridine-3-yl)-3-oxopropanoate | 6.71 mmol, 1.42 g | FC1=NC=CC=C1C(CC(=O)OCC)=O | C10H10FNO3
reactant | triethylamine | 0.781 mL, 1.15 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidobenzenesulfonyl azide | 1.77 g, 1.1 equiv | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | sodium hydroxide | 1 N, 10 mL | [OH-].[Na+]
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 200 mL | O | H2O
product | ethyl 2-diazo-3-(2-fluoropyridin-3-yl)-3-oxopropanoate | [N+](=[N-])=C(C(=O)OCC)C(=O)C=1C(=NC=CC1)F | C10H8FN3O3
